US07951824B2
Step 2: 2-{[4-(3,5-Difluoro-phenyl)-6-methyl-pyridine-2-carbonyl]-amino}-thiazole-4-carboxylic acid methyl ester
To a solution of 100 mg (0.40 mmol) of 4-(3,5-Difluorophenyl)-6-methyl-pyrimidine-2-carboxylic acid, and 2-Amino-thiazole-4-carboxylic acid methyl ester in 5 ml of dry Dimethylacetamide were added 0.34 ml N-Ethyldiisopropylamine and 141.7 mg (0.44 mmol) of o-(Benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (TBTU). After stirring overnight at room temperature, the mixture was diluted with 15 ml of methylene chloride, and worked up according to standard procedures. The crude material was purified by flash chromatography on silicagel using an Ethyl acetate/Heptane 1:4 mixture as eluant to yield the title compound as a light yellow crystalline solid, MS (ISP): m/e=390.2 (M+H)+.

reactant | 4-(3,5-Difluorophenyl)-6-methyl-pyrimidine-2-carboxylic acid | 0.40 mmol, 100 mg | FC=1C=C(C=C(C1)F)C1=NC(=NC(=C1)C)C(=O)O | C12H8F2N2O2
reactant | 2-Amino-thiazole-4-carboxylic acid methyl ester | COC(=O)C=1N=C(SC1)N | C5H6N2O2S
reactant | N-Ethyldiisopropylamine | 0.34 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | Dimethylacetamide | 5 ml | CC(=O)N(C)C | C4H9NO
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 2-{[4-(3,5-Difluoro-phenyl)-6-methyl-pyridine-2-carbonyl]-amino}-thiazole-4-carboxylic acid methyl ester | COC(=O)C=1N=C(SC1)NC(=O)C1=NC(=CC(=C1)C1=CC(=CC(=C1)F)F)C | C18H13F2N3O3S
